US05753665
A solution of 3-chloroperbenzoic acid (0.63 g) in dichloromethane (30 ml) was added dropwise at -78° C. to a stirred solution of 7-{1-[4-(methylthio)phenoxy]ethyl}-1,2,4-triazolo[1,5-a]pyrimidine (0.89 g, prepared in a similar manner to that described in Example 9) in dichloromethane (30 ml). The reaction mixture was stirred at -78° C. for 2 hours, washed with a 10% aqueous solution of sodium hydrogen carbonate followed by water. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was purified by flash chromatography using as eluent a mixture of dichloromethane and ethanol (in the ratio of 95:5 respectively), followed by recrystallisation from a mixture of ethyl acetate and hexane, to give 7-[1-(4-methylsulphinylphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine. Yield 0.76 g, (m.p. 89°-102° C.).

reactant | 3-chloroperbenzoic acid | 0.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 7-{1-[4-(methylthio)phenoxy]ethyl}-1,2,4-triazolo[1,5-a]pyrimidine | CSC1=CC=C(OC(C)C2=CC=NC=3N2N=CN3)C=C1 | C14H14N4OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-[1-(4-methylsulphinylphenoxy)ethyl]-1,2,4-triazolo[1,5-a]pyrimidine | CS(=O)C1=CC=C(OC(C)C2=CC=NC=3N2N=CN3)C=C1 | C14H14N4O2S
